US03972888
2 g of 4,6-dimethyl-5-benzyl-2-pyrone, 4 g of 2-aminopyridine and 0.9 g of hydroxylamine hydrochloride were heated for 5 hours to 80° C. After the usual working up, there were obtained 0.89 g (42 %) of 1-hydroxy-4,6-dimethyl-5-benzyl-2-pyridone melting at 165° C (Calc.: 6.1 % N, found: 6.1 % N).

reactant | 4,6-dimethyl-5-benzyl-2-pyrone | 2 g | CC1=CC(OC(=C1CC1=CC=CC=C1)C)=O | C14H14O2
reactant | 2-aminopyridine | 4 g | NC1=NC=CC=C1 | C5H6N2
reactant | hydroxylamine hydrochloride | 0.9 g | Cl.NO
product | 1-hydroxy-4,6-dimethyl-5-benzyl-2-pyridone | 0.89 g | ON1C(C=C(C(=C1C)CC1=CC=CC=C1)C)=O | C14H15NO2
